US08754100B2
Synthesis of methyl 3-nitro-4-(piperidine-1-yl)benzoate
Piperidine (1.24 ml) was added to a solution of methyl 4-fluoro-3-nitrobenzoate (1.00 g) in DMF (20 ml) and the mixture was stirred at room temperature for 1 hour. The reaction mixture was diluted with ethyl acetate, sequentially washed with water and brine, and dried over anhydrous sodium sulfate. The filtrate was concentrated under reduced pressure and the residue was purified by silica gel column chromatography to obtain the title compound (1.50 g).

reactant | Piperidine | 1.24 ml | N1CCCCC1 | C5H11N
reactant | methyl 4-fluoro-3-nitrobenzoate | 1.00 g | FC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C8H6FNO4
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 3-nitro-4-(piperidine-1-yl)benzoate | 1.50 g | [N+](=O)([O-])C=1C=C(C(=O)OC)C=CC1N1CCCCC1 | C13H16N2O4
